US07576099B2
4-(Cyclopropylethynyl)-3-(cyclopropylmethoxy)benzoic acid
Ethyl 4-(2-cyclopropylethynyl)-3-(cyclopropylmethoxy)benzoate (0.47 g, 1.65 mmol) and LiOH (120 mg, 4.96 mmol) were placed in a 3:1 mixture of methanol:water (50 mL) and heated at 60° C. for 3.5 h. The reaction was cooled and concentrated in vacuo to a volume of 20 mL, then placed in an ice-water bath and acidified to pH 5 with conc. HCl. A white solid precipitated which was filtered and washed thoroughly with water. The solid was dried in the vacuum oven to give the product (0.44 g, 98%). m/z=257.1 (M+1).

reactant | Ethyl 4-(2-cyclopropylethynyl)-3-(cyclopropylmethoxy)benzoate | 1.65 mmol, 0.47 g | C1(CC1)C#CC1=C(C=C(C(=O)OCC)C=C1)OCC1CC1 | C18H20O3
reactant | LiOH | 4.96 mmol, 120 mg | [Li+].[OH-]
reactant | methanol | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4-(Cyclopropylethynyl)-3-(cyclopropylmethoxy)benzoic acid | 0.44 g, 98% | C1(CC1)C#CC1=C(C=C(C(=O)O)C=C1)OCC1CC1 | C16H16O3
